US07282588B2
4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine
A mixture of 1-acetyl-5-fluoro-4-iodo-1H-pyrrolo[2,3-b]pyridine (0.822 mmol), 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (1.15 mmol), tetrakis(triphenylphosphine)palladium(0) (0.041 mmol), sodium bicarbonate (2.47 mmol), water (2 mL) and N,N-dimethylformamide (6 mL) were heated to 100° C. in a sealed tube for 16 h. The reaction mixture was quenched with water (5 mL) and extracted with ethyl acetate (3×10 mL). The combined extracts were dried over sodium sulfate filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (50% ethyl acetate/hexanes) to give the title compound as a yellow solid (80%). ESMS [M+H]+: 352.2

reactant | 1-acetyl-5-fluoro-4-iodo-1H-pyrrolo[2,3-b]pyridine | 0.822 mmol | C(C)(=O)N1C=CC=2C1=NC=C(C2I)F | C9H6FIN2O
reactant | 1-ethyl-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 1.15 mmol | C(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C17H22BN3O4
reactant | sodium bicarbonate | 2.47 mmol | C([O-])(O)=O.[Na+]
reactant | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.041 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 4-[1-ethyl-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-5-fluoro-1H-pyrrolo[2,3-b]pyridine | 80% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1F)NC=C2)C2=CC=C(C=C2)[N+](=O)[O-] | C18H14FN5O2
